US04476308
Preparation of (R/S)-N-[2-(diisopropylamino)ethyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide
4.5 g of ethyl (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetate are heated to 100° under nitrogen for 3.5 hours with 6.1 g of 2-(diisopropylamino)ethylamine. The crude product is chromatographed on aluminium oxide (neutral, activity grade III). With ethyl acetate/ethanol (1:1) and with ethanol there is eluted (R/S)-N-[2-(diisopropylamino)ethyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide. After stirring in diethyl ether this has a melting point of 91°-93°; boiling point 230°-250°/0.01 mmHg (bulb-tube).

reactant | ethyl (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetate | 4.5 g | OC1C(N(CC1)CC(=O)OCC)=O | C8H13NO4
reactant | 2-(diisopropylamino)ethylamine | 6.1 g | C(C)(C)N(CCN)C(C)C | C8H20N2
product | (R/S)-N-[2-(diisopropylamino)ethyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide | C(C)(C)N(CCNC(CN1C(C(CC1)O)=O)=O)C(C)C | C14H27N3O3
